US08012976B2
9-(4-Fluorophenyl)-9-hydroxy-8-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(4-fluorophenyl)-3-hydroxy-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (60 mg) in 85% hydrazine monohydrate (0.2 mL) and methanol (2 mL) was stirred at room temperature for 1 hr. Then the solvent was removed under reduced pressure. The residue was purified by prep-TLC (methanol:dichloromethane=1:20) to give the title compound (50 mg, yield 80%). LC-MS (ESI) m/z: 378 (M+1)+; 1H-NMR (400 MHz, DMSO-d6); 3.44 (s, 3H), 5.24 (s, 1H), 6.84 (s, 1H), 6.98-7.06 (m, 4H), 7.11-7.13 (d, J=8.0 Hz, 1H), 7.38-7.42 (m, 3H), 7.46 (s, 1H), 7.56-7.60 (t, J=8.0 Hz, 1H).

reactant | ethyl 3-(4-fluorophenyl)-3-hydroxy-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 60 mg | FC1=CC=C(C=C1)C1(C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C=1N(C=CN1)C)O | C22H20FN3O4
reactant | hydrazine monohydrate | 0.2 mL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 9-(4-Fluorophenyl)-9-hydroxy-8-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 50 mg, yield 80% | FC1=CC=C(C=C1)C1(C(NC=2C=3C1=NNC(C3C=CC2)=O)C=2N(C=CN2)C)O | C20H16FN5O2
